US08877934B2
Step A: Ethyl 4-[2-(tert-butoxycarbonylamino)ethylamino]-1,3-dimethyl-pyrazolo[3,4-b]pyridine-5-carboxylate
To a mixture of ethyl 4-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (500 mg, 1.971 mmol) and potassium carbonate (817 mg, 5.91 mmol) in acetonitrile (15 ml) was slowly added tert-butyl N-(2-aminoethyl)carbamate (1.248 ml, 7.88 mmol) via a syringe. The reaction mixture was stirred at room temperature for 3 hours. The solids were filtered off over a glass filter and washed with a 1:1 mixture of EtOH and DCM. The combined filtrates were concentrated under reduced pressure to give a white semisolid, which was purified by column chromatography (silica gel using a gradient of ethanol (0-5%) in DCM) to yield 658 mg of a white solid (1.743 mmol, 88%). MS (ESI) m/z=378.2 [M+1]+.

reactant | ethyl 4-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 1.971 mmol, 500 mg | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C | C11H12ClN3O2
reactant | potassium carbonate | 5.91 mmol, 817 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl N-(2-aminoethyl)carbamate | 7.88 mmol, 1.248 ml | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Ethyl 4-[2-(tert-butoxycarbonylamino)ethylamino]-1,3-dimethyl-pyrazolo[3,4-b]pyridine-5-carboxylate | 1.743 mmol, 658 mg, 88% | C(C)(C)(C)OC(=O)NCCNC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C | C18H27N5O4
